US04561882
A mixture of 2,6,7-trichloroquinoxaline (0.8 eq, 3.43 ml.), ethyl 4-(4-hydroxyphenoxy)-3-methoxy-2-pentenoate (1.09 g, 1.2 eq), K2CO3 (568 mg) and CH3CN (20 ml) is refluxed overnight and then filtered. The filtrate is concentrated and taken up in CH2Cl2. The CH2Cl2 solution is washed, dried and evaporated to dryness to yield crystalline enol ether, i.e., ethyl 4-[4-(6,7-dichloro-2-quinoxalyloxy)phenoxy]-3-methoxy-2-pentenoate.

reactant | 2,6,7-trichloroquinoxaline | 3.43 ml, 0.8 eq | ClC1=NC2=CC(=C(C=C2N=C1)Cl)Cl | C8H3Cl3N2
reactant | ethyl 4-(4-hydroxyphenoxy)-3-methoxy-2-pentenoate | 1.09 g, 1.2 eq | OC1=CC=C(OC(C(=CC(=O)OCC)OC)C)C=C1 | C14H18O5
reactant | K2CO3 | 568 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | ethyl 4-[4-(6,7-dichloro-2-quinoxalyloxy)phenoxy]-3-methoxy-2-pentenoate | ClC=1C=C2N=CC(=NC2=CC1Cl)OC1=CC=C(OC(C(=CC(=O)OCC)OC)C)C=C1 | C22H20Cl2N2O5
